US07572809B2
Similar procedure as described in example 10 was used, starting from 4-methoxy-phenol and (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [6-methoxy-1-(4-methoxy-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 377(MH+).

reactant | 4-methoxy-phenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | [6-methoxy-1-(4-methoxy-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)OC1=CC=C(C=C1)OC)NC1=NNC(=C1)C | C21H20N4O3
